US04988686
1-allyl-3-diphenylmethoxy-6-formyl-4-pyridone
Starting from 1.000 g of 1-allyl-3-diphenylmethoxy-6-hydroxymethyl-4-pyridone and 6.00 g of manganese dioxide, the title compound is obtained in the same manner as in Synthesis Example 2 as colorless crystal in a yield of 0.710 g.

reactant | 1-allyl-3-diphenylmethoxy-6-hydroxymethyl-4-pyridone | 1.000 g | C(C=C)N1C=C(C(C=C1CO)=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21NO3
catalyst | manganese dioxide | 6.00 g | [O-2].[O-2].[Mn+4]
product | 1-allyl-3-diphenylmethoxy-6-formyl-4-pyridone | C(C=C)N1C=C(C(C=C1C=O)=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19NO3
